US05709867
(b) Preparation of α-methoxycarbonyl-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acetic acid
2.1 ml (14.6 mmol) of diisopropylamine and 80 ml of TEP were introduced into a three-necked flask under a nitrogen stream. At -78° C., 5.8 ml (14.6 mmol) of n-butyllithium (2.5M) were added dropwise, the mixture was stirred for 30 minutes, then a solution of 3.2 g (12.2 mmol) of methyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetate dissolved in 80 ml of THF was added dropwise and the mixture was stirred for one hour. While maintained at -78° C., CO2 was introduced for 30 minutes and then the temperature was permitted to increase to -40° C. and the reaction medium was poured into a 5N hydrochloric acid solution. The mixture was extracted with ethyl acetate, the organic phase decanted, dried over magnesium sulfate and evaporated. 3.7 g (100%) of expected acid were recovered in the form of a slightly yellow oil.

reactant | diisopropylamine | 14.6 mmol, 2.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 14.6 mmol, 2.5M, 5.8 ml | C(CCC)[Li]
reactant | methyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetate | 12.2 mmol, 3.2 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC(=O)OC)C | C17H24O2
reactant | CO2 | C(=O)=O | CO2
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | α-methoxycarbonyl-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acetic acid | COC(=O)C(C(=O)O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C18H24O4
